US05438058
Preparation of 2-methyl-4-amino-6-piperidinopyrimidine 3-oxide
A solution of 44 g (0.261 mol) of 2-methyl4-amino-6-chloropyrimidine 3-oxide in 352 ml of piperidine is refluxed gently for 4 hours 30 minutes, with stirring and under nitrogen. A yellow suspension is obtained. The suspension is cooled in a salt ice bath and the precipitate is drained and washed on the filter with 30 ml of piperidine and then with ethyl ether. It is then taken up, with stirring, twice ill 150 ml of ice-water. The solid is drained and dried under vacuum at ambient temperature. 42 g of product in the form of the monohydrate are obtained. The product is recrystallized from acetonitrile with 3% of water, After drying at 80° C., 37.8 g (0.181 mol) of anhydrous pure product having a melting point of 200°-200.5° C. are recovered. The yield is 69.6%.

reactant | 2-methyl4-amino-6-chloropyrimidine 3-oxide | 0.261 mol, 44 g | CC1=NC(=CC(=[N+]1[O-])N)Cl | C5H6ClN3O
reactant | piperidine | 352 ml | N1CCCCC1 | C5H11N
product | 2-methyl-4-amino-6-piperidinopyrimidine 3-oxide | 42 g, yield is 69.6% | CC1=NC(=CC(=[N+]1[O-])N)N1CCCCC1 | C10H16N4O
